US07626039B2
(2S)-3-(2-acetoxy-indan-5-yl)-2-(tert-butoxycarbonylamino)-propanoic acid: This intermediate was prepared in five steps as follows: 10 g (0.075 mol) of 2-indanol was cooled to 0° C. under nitrogen. To this was added 30 mL of acetyl chloride dropwise over a period of 30 min and the resulting mixture was allowed to stir at rt overnight. The reaction was concentrated using vacuum pump. The residue was dissolved in ethyl acetate and washed with 10% NaHCO3, water, and brine then concentrated to give 2-acetoxyindane (13 g, 99%). 1HNMR (CDCl3, 400 MHz) δ 7.19-7.27 (m, 4H), 5.54 (m, 1H), 3.34 (m, 2H), 3.04 (dd, 2H), 2.06 (s, 3H). LC-MS: m/z 176 (M+H)+. A portion of this intermediate (5 g, 0.0284 mol) was taken up in 150 mL of dry acetonitrile under nitrogen and NBS (15.15 g, 0.085 mol) was added. The reaction was stirred at rt for 9 days. The reaction mixture was concentrated, dissolved in DCM, washed with water, brine solution and concentrated. The product was purified by flash column to give 2-acetoxy-5-bromo-indane (3.75 g, 52%) as an off-white solid. 1HNMR (CDCl3, 400 MHz) δ 7.39 (s, 1H), 7.33 (d, 1H), 7.12 (d, 1H), 5.5 (m, 1H), 3.32 (m, 2H), 3.0 (t, 2H), 2.06 (s, 3H). A mixture of the bromide (3.5 g, 0.0137 mol), 2-tert-butoxycarbonylamino-acrylic acid benzyl ester (4.94 g (0.0178 mol), tri-o-tolyl phosphine, (0.68 g, 0.00226 mol), palladium acetate (0.16 g, 0.00075 mol) and triethylamine (4.57 g, 0.045 mol) in 35 ml of dry DMF was degassed for 1 h, then heated to 110° C. overnight. The reaction was quenched with water and extracted with ethyl acetate. The extracts were washed with water and brine and concentrated. The compound was purified by flash chromatography to give (E)-3-(2-Acetoxy-indan-5-yl)-2-tert-butoxycarbonylamino-acrylic acid benzyl ester (1.7 g, 27.5%) as an off-white solid. 1HNMR (CDCl3, 400 MHz) δ 7.39 (s, 1H), 7.33 (d, 1H), 7.12 (d, 1H), 5.5 (m, 1H), 3.32 (m, 2H), 3.0 (t, 2H), 2.06 (s, 3H). LC-MS: m/z 451 (M+H)+. The olefin (14 g, 0.031 mol) was dissolved in 350 mL of methanol. The solution was degassed with nitrogen and a catalytic amount of (S,S)-Et-DUPHOS-Rh catalyst (0.67 g) was added. The solution was degassed for 30 min then stirred under 70 psi hydrogen pressure overnight. The reaction was filtered through Celite® and concentrated. The product was purified by flash chromatography to give the reduced product (12 g, 85%). 1HNMR (CDCl3, 400 MHz) δ 7.39 (m, 3H), 7.33 (m, 2H), 7.1 (d, 1H), 6.8 (m, 2H) 5.5 (m, 1H), 5.3 (m, 1H), 5.2 (s, 1H), 5 (d, 1H) 3.3 (m, 2H), 3.10 (d, 2H), 2.99 (t, 2H) 2.06 (s, 3H). LC-MS: m/z 445.2 (M+1)+. This material was dissolved in a 1:1 ethyl acetate:methanol mixture, and palladium hydroxide (1 g, 10%) was added under nitrogen. The reaction mixture was stirred at 50 psi hydrogen pressure overnight. The catalyst was removed by filtration through Celite® and filtrate concentrated. Purification by flash chromatography provided the desired acid (2 g, 25%) as a viscous liquid. 1HNMR (CDCl3, 400 MHz) δ 12.5 (bs, 1H), 7.15 (m, 3H), 5.40 (m, 1H), 4.0 (m, 1H), 3.28 (m, 2H), 2.97 (m, 1H), 2.82 (m, 3H), 1.98 (s, 3H), 1.3 (s, 9H). LC-MS: m/z 363.4 (M+H)+.

reactant | (2S)-3-(2-acetoxy-indan-5-yl)-2-(tert-butoxycarbonylamino)-propanoic acid | C(C)(=O)OC1CC2=CC=C(C=C2C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C19H25NO6
reactant | 2-indanol | 0.075 mol, 10 g | C1C(CC2=CC=CC=C12)O | C9H10O
solvent | acetyl chloride | 30 mL | C(C)(=O)Cl | C2H3ClO
product | 2-acetoxyindane | 13 g, 99% | C(C)(=O)OC1CC2=CC=CC=C2C1 | C11H12O2
